US08802659B2
6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinoline-2-carbaldehyde
Di-tert-butyl peroxide (0.186 mL, 1.01 mmol) was added to a suspension of Selenium dioxide (0.252 g, 2.27 mmol) in 1,4-Dioxane (6.0 mL). The mixture was stirred for 30 minutes, then 6-(4-tert-Butyl-cyclohexyloxy)-2-methyl-4-trifluoromethyl-quinoline (0.366 g, 1.00 mmol) was added as a solution in 1,4-Dioxane (2.0 mL). The mixture was sealed and was heated at 50° C. for 20 h. The reaction was filtered through Celite and washed with dioxane. The solvent was evaporated and the residue was purified on silica gel column using 0-20% ethyl acetate in hexanes as eluent. Isolated was (Rf=0.70 in 3:1 hexanes/ethyl acetate) the product (212 mg, 56%). ESI-MS (M+H+): 380.20.

reactant | Di-tert-butyl peroxide | 1.01 mmol, 0.186 mL | C(C)(C)(C)OOC(C)(C)C | C8H18O2
reactant | Selenium dioxide | 2.27 mmol, 0.252 g | [Se](=O)=O | O2Se
reactant | 6-(4-tert-Butyl-cyclohexyloxy)-2-methyl-4-trifluoromethyl-quinoline | 1.00 mmol, 0.366 g | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C(=CC(=NC2=CC1)C)C(F)(F)F | C21H26F3NO
solvent | 1,4-Dioxane | 6.0 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-Dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 6-(trans-4-tert-Butyl-cyclohexyloxy)-4-trifluoromethyl-quinoline-2-carbaldehyde | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C(=CC(=NC2=CC1)C=O)C(F)(F)F | C21H24F3NO2
